US07727988B2
5-(trifluoromethyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (E14)
5-(trifluoromethyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione was treated with a solution of 4N HCl in dioxane (200 μl) to give the title compound as a yellow solid.

reactant | 5-(trifluoromethyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione | FC(C=1C(NC(N(C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O)(F)F | C21H21F6N3O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 200 μl | O1CCOCC1 | C4H8O2
product | 5-(trifluoromethyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.FC(C=1C(NC(N(C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O)(F)F | InChI=1S/C21H21F6N3O2.ClH/c22-20(23,24)14-5-3-13(4-6-14)19-9-15(19)10-29(12-19)7-1-2-8-30-11-16(21(25,26)27)17(31)28-18(30)32;/h3-6,11,15H,1-2,7-10,12H2,(H,28,31,32);1H/t15-,19+;/m0./s1
